US06642226B2
Rac-cis-1-{4-[1-(3,5-Bis-trifluoromethyl-benzoyl)-3-phenyl-piperidin-4-yl]-piperazin-1-yl}-ethanone
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-(3-phenyl-4-piperazin-1-yl-piperidin-1-yl)-methanone (200 mg, 0.41 mmol) was dissolved in methylene chloride (5 mL). Triethyl amine (0.173 mL, 1.24 mmol) and acetyl chloride (0.035 mL, 0.49 mmol) were added and the reaction mixture was stirred at room temperature overnight. The solvent was evaporated and chromatography on silica gel with methylen chloride/triethyl amine 99:1 gave the desired product (122 mg, 56%) as a light yellow foam, MS: m/e=528.2 (M+H+).

reactant | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-(3-phenyl-4-piperazin-1-yl-piperidin-1-yl)-methanone | 0.41 mmol, 200 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CCNCC1)C1=CC=CC=C1)(F)F | C24H25F6N3O
reactant | Triethyl amine | 1.24 mmol, 0.173 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.49 mmol, 0.035 mL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | Rac-cis-1-{4-[1-(3,5-Bis-trifluoromethyl-benzoyl)-3-phenyl-piperidin-4-yl]-piperazin-1-yl}-ethanone | 122 mg, 56% | FC(C=1C=C(C(=O)N2C[C@H]([C@H](CC2)N2CCN(CC2)C(C)=O)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C26H27F6N3O2
